Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OTOLARYNGOLOGY
 
Allergies: 
Motrin / Morphine / Demerol / Codeine / Iodinated Contrast Media 
- IV Dye
 
Attending: ___.
 
Chief Complaint:
thyroid nodule
 
Major Surgical or Invasive Procedure:
Left hemithyroidectomy

 
History of Present Illness:
___ with left thyroid nodule. 
 
Past Medical History:
CAD s/p DES ___, HTN, HLD. DM2 on orals, macular 
degeneration

 
Social History:
___
Family History:
Denies family history of thyroid cancer
 
Physical Exam:
Objective:
Vitals:  VSS

Physical Exam:
Gen: No acute distress
HEENT: Incision clean dry and intact. Cranial nerves 5, 7, 9, 11
intact bilaterally. No paresthesias.
CV: Hemodynamically stable
Resp: Unlabored breathing
Neuro: Alert and oriented

 
Brief Hospital Course:
Hospital Course by Systems:

Neuro: Pain was well controlled, initially with IV regimen which 

was transitioned to oral regimen once tolerating oral intake. 
Post-operative anti-emetics were given PRN. 

Cardiovascular: Remained hemodynamically stable.  

Pulmonary: Oxygen was weaned and the patient was ambulating 
independently without supplemental oxygen prior to discharge.

HEENT: Neck remained soft and flat. The patient had negative 
chvostek, intact 
voice and no evidence of paresthesias prior to discharge

GI: Diet was advanced as tolerated. Bowel regimen was given prn.

GU: Patient was able to void independently.

Heme: Received pneumatic compression boots for DVT prophylaxis.

Endocrine: Monitored perioperatively.

ID: Received perioperative antibiotics.

At time of discharge, the patient was in stable condition, 
ambulating and voiding independently, and with adequate pain 
control. The patient was given instructions to follow-up in 
clinic as scheduled. Pt was given detailed discharge 
instructions outlining wound care, activity, diet, and 
follow-up. The patient was provided with prescriptions for new 
medications and informed of the risks and side effects.
 
Medications on Admission:
aspirin 81 mg daily, losartan 100
mg daily, metoprolol succinate 50 mg daily atorvastatin 80 mg
daily, Lantus, Victoza and metformin
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
  Reason for PRN duplicate override: PO
RX *acetaminophen 650 mg 1 tablet(s) by mouth every six (6) 
hours PRN Disp #*56 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0 
3.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: PO
RX *oxycodone 5 mg 1 tablet(s) by mouth q4-6h PRN Disp #*10 
Tablet Refills:*0 
4.  Aspirin 81 mg PO DAILY  
5.  Losartan Potassium 100 mg PO DAILY  
6.  Metoprolol Succinate XL 50 mg PO DAILY  

RESUME ALL OTHER HOME MEDICATIONS

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left thyroid nodule

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Division of Otolaryngology – Head and Neck Surgery
Post-Operative Instructions 
Thyroidectomy

ACTIVITY
•Go home and rest today.
•If you have received general anesthesia, you may feel tired 
and drowsy for a few hours. You should not drink alcoholic 
beverages, drive, operate any machinery, or make legal decision 
for 24 hours.
•You need to avoid strenuous activity for 2 weeks
•Do NOT lift any weight greater than 10 Lbs for 2 weeks.
•You need to follow up with both your surgeon and your 
endocrinologist as scheduled.

FLUIDS & DIET
•Start with liquids and, if tolerated, you can eat normal 
foods.

MEDICATIONS
•Take pain medication as prescribed.
•Resume other medications as prescribed.  You may resume your 
daily aspirin.

CARE OF PROCEDURE SITE
•Some swelling of the neck incision is expected
•You may note some bloody looking drainage from the region 
where the plastic drain was removed (if you had a drain), for up 
to 5 days.
•Apply antibiotic ointment to your incision twice daily for 7 
days after surgery, then STOP antibiotic ointment and use 
vaseline. If there is tape on your incision apply the ointment 
over the tape.
•Keep incision dry for 3 days. You may be able to take a bath 
from your shoulders down as long as the incision stays dry. The 
tape will start to fall off on its own.
•If there are any crusts/clots on your wound you may gently 
clean them with a Q-tip and Half strength hydrogen peroxide 
(10cc water + 10cc peroxide) as needed. Do not be too vigorous 
or your stitches or staples may break
•The stitches do not need to be removed as they are 
dissolvable.

WHEN TO CALL YOUR DOCTOR
•Excessive redness of your incision site
•Fever greater than 101 degrees Fahrenheit
•Sudden excessive swelling of incision site
•Make sure you have a follow up appointment with your 
Endocrinologist or Primary Care to have your thyroid labs and 
calcium level checked after surgery.

For questions or problems, please call ___ and ask to 
speak to the nurse during clinic hours.

After hours, or on weekends, dial ___ and ask the 
operator to page the Otolaryngology resident on-call.

 
Followup Instructions:
___